US06391915B2
A suspension of 60% sodium hydride (54 mg, washed with n-hexane) in N,N-dimethylformamide (1 ml) was added slowly to a stirred solution of (2S)-1-[N-benzyl-(6,7,8,9-tetrahydro-1-hydroxy-5H-benzocyclohepten-6-yl)amino]-3-phenoxy-2-propanol (512 mg) in N,N-dimethylformamide (5 ml) under ice cooling and the resulting mixture was stirred at the same temperature for 30 minutes. A solution of ethyl bromoacetate (225 mg) in N,N-dimethylformamide (1 ml) was added dropwise therein at the same temperature and the mixture was stirred at the same temperature for 4 hours. The reaction mixture was diluted with water and extracted with ethyl acetate. The extract was washed twice with brine, dried over magnesium sulfate, and evaporated in vacuo to afford (2S)-1-[N-benzyl-(1-ethoxycarbonylmethoxy-6,7,8,9-tetrahydro-5H-benzocyclohepten-6-yl)amino]-3-phenoxy-2-propanol (0.59 g) as a crude oil.

reactant | sodium hydride | 54 mg | [H-].[Na+]
reactant | (2S)-1-[N-benzyl-(6,7,8,9-tetrahydro-1-hydroxy-5H-benzocyclohepten-6-yl)amino]-3-phenoxy-2-propanol | 512 mg | C(C1=CC=CC=C1)N(C[C@@H](COC1=CC=CC=C1)O)C1CC2=C(CCC1)C(=CC=C2)O | C27H31NO3
reactant | ethyl bromoacetate | 225 mg | BrCC(=O)OCC | C4H7BrO2
solvent | N,N-dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | (2S)-1-[N-benzyl-(1-ethoxycarbonylmethoxy-6,7,8,9-tetrahydro-5H-benzocyclohepten-6-yl)amino]-3-phenoxy-2-propanol | 0.59 g | C(C1=CC=CC=C1)N(C[C@@H](COC1=CC=CC=C1)O)C1CC2=C(CCC1)C(=CC=C2)OCC(=O)OCC | C31H37NO5
